US03947593
A solution of 2-diethylaminoethyl chloride [obtained from 12.9 g (0.075 mole) of 2-diethylaminoethyl chloride hydrochloride] in 100 ml of toluene (dried over molecular sieves) is added to a mixture of 4.9 g (0.025 mole) of 2,7-dihydroxyfluorene and 2.7 g (0.05 mole) of sodium methoxide in 200 ml of toluene (dried over molecular sieves). This mixture is refluxed with stirring for three hours. Upon cooling the mixture is filtered to remove the precipitated sodium chloride. The toluene solution is washed three times with water, then once with a saturated sodium chloride solution and dried over anhydrous magnesium sulfate. This mixture is filtered and the filtrate acidified to Congo Red with ethereal hydrogen chloride. The solid which precipitates is filtered, dissolved in butanone with enough methanol added to effect solution, decolorized with charcoal, and the product obtained at 80°C under vacuum, 2,7-bis(2-diethylaminoethoxy)fluorene dihydrochloride. M.P. 213°-216°C.

reactant | 2-diethylaminoethyl chloride | 0.075 mole, 12.9 g | C(C)N(CCCl)CC | C6H14ClN
reactant | 2-diethylaminoethyl chloride hydrochloride | 0.075 mole | Cl.C(C)N(CCCl)CC
reactant | 2,7-dihydroxyfluorene | 0.025 mole, 4.9 g | OC1=CC=2CC3=CC(=CC=C3C2C=C1)O | C13H10O2
reactant | sodium methoxide | 0.05 mole, 2.7 g | C[O-].[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2,7-bis(2-diethylaminoethoxy)fluorene dihydrochloride | Cl.Cl.C(C)N(CCOC1=CC=2CC3=CC(=CC=C3C2C=C1)OCCN(CC)CC)CC | InChI=1S/C25H36N2O2.2ClH/c1-5-26(6-2)13-15-28-22-9-11-24-20(18-22)17-21-19-23(10-12-25(21)24)29-16-14-27(7-3)8-4;;/h9-12,18-19H,5-8,13-17H2,1-4H3;2*1H
